US05574042
To a suspension of 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride (200 mg), pyridine (1 ml) and N-methylpyrrolidone (3 ml) was added propionyl chloride (78 mg) and the mixture was stirred at 60° C. for 1 hour. To the cooled mixture was added water, and the precipitate was collected by filtration and dissolved in chloroform. This organic solution was washed with water and brine respectively, dried with magnesium sulfate and concentrated in vacuo. The residue was collected by filtration and washed with ethyl acetate to give 3-bromo-8-(2,6-dichloro-3-propionylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine (158 mg).

reactant | 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride | 200 mg | Cl.Cl.NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
reactant | propionyl chloride | 78 mg | C(CC)(=O)Cl | C3H5ClO
solvent | water | O | H2O
product | 3-bromo-8-(2,6-dichloro-3-propionylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 158 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)NC(CC)=O)Cl)C | C18H16BrCl2N3O2
